US05608104
3-Phenoxybenzyl 2-(4-hydroxyphenyl)-2-methylpropyl ether (3.0 g), 0.36 g of sodium hydride and 20 ml of acetonitrile were heated under reflux for about 20 minutes, followed by the dropwise addition of 2 ml of methyl bromoacetate at room temperature. The resulting mixture was stirred at 60° C. for 20 minutes. After concentration of the reaction mixture, about 50 ml of ethyl acetate were added to the concentrate, followed by washing with water, drying and concentration. The resulting concentrate was fractionated and purified by chromatography on a silica gel column, whereby 3.0 g of 3-phenoxybenzyl 2-{4-(methoxycarbonylmethyloxy)phenyl}-2-methylpropyl ether were obtained.

reactant | 3-Phenoxybenzyl 2-(4-hydroxyphenyl)-2-methylpropyl ether | 3.0 g | OC1=CC=C(C=C1)C(COCC1=CC(=CC=C1)OC1=CC=CC=C1)(C)C | C23H24O3
reactant | sodium hydride | 0.36 g | [H-].[Na+]
reactant | acetonitrile | 20 ml | C(C)#N | C2H3N
reactant | methyl bromoacetate | 2 ml | BrCC(=O)OC | C3H5BrO2
solvent | ethyl acetate | about 50 ml | C(C)(=O)OCC | C4H8O2
product | 3-phenoxybenzyl 2-{4-(methoxycarbonylmethyloxy)phenyl}-2-methylpropyl ether | 3.0 g | COC(=O)COC1=CC=C(C=C1)C(COCC1=CC(=CC=C1)OC1=CC=CC=C1)(C)C | C26H28O5
